US06172085B2
2,3-Dihydro-2,4,6,7-tetramethyl-2-[[1,2,3,6-tetrahydro-4-(3-indolyl)-1-pyridyl]methyl]-5-benzofuranamine
A suspension of 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine (0.85 g), 3-(1,2,3,6-tetrahydro-4-pyridyl)-1H-indole (1.1 g) and potassium bicarbonate (0.83 g) in N,N-dimethylactamide (6 mL) was refluxed for 7.5 hours under nitrogen atmosphere. To the mixture water was added and the product was extracted twice with ethyl acetate. The combined extract was washed with water followed by saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from acetone/diisopropyl ether to provide 0.99 g of the title compound. Yield 82%.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 0.85 g | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | 3-(1,2,3,6-tetrahydro-4-pyridyl)-1H-indole | 1.1 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | potassium bicarbonate | 0.83 g | C([O-])(O)=O.[K+]
reactant | water | O | H2O
solvent | N,N-dimethylactamide | 6 mL | CN(C(C)=O)C | C4H9NO
product | 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[1,2,3,6-tetrahydro-4-(3-indolyl)-1-pyridyl]methyl]-5-benzofuranamine | 0.99 g, Yield 82% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCC(=CC2)C2=CNC1=CC=CC=C21 | C26H31N3O
